US06824882B2
A mixture of 5.23 g of 1-bromo-11-(heptadecafluorooctyl)undecane and 4.2 g of triethyl phosphite was heated at 150° C. After 18 hr, diethyl ethylphosphonate and other volatiles were distilled from the reaction mixture, b.p. 30-50° C. at 0.05 torr (7 Pa). The concentrate was combined with an additional 2.0 g of triethyl phosphite, and the mixture was heated at 150° C. After 3 hr, volatiles were again distilled, and the crude 1-diethylphosphono-11-(heptadecafluorooctyl)undecane was dissolved in 10 mL of dichloromethane. To this solution was added 3.1 g of bromotrimethylsilane. After 18 hr at room temperature, the solution was concentrated to a nearly colorless liquid, and the intermediate silylphosphonate ester was dissolved in 200 mL of methanol. The resultant solution was stirred at room temperature for 3 hr and cooled to 0° C. The crude product was collected by filtration, and recrystallization from methanol afforded 2.32 g of 1-phosphono-11-(heptadecafluorooctyl)undecane (CF3(CF2)7 (CH2)11PO3H2) as white crystals, m.p. 115-117° C.

reactant | 1-bromo-11-(heptadecafluorooctyl)undecane | 5.23 g | BrCCCCCCCCCCCC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C19H22BrF17
reactant | triethyl phosphite | 4.2 g | P(OCC)(OCC)OCC | C6H15O3P
product | 1-phosphono-11-(heptadecafluorooctyl)undecane | 2.32 g | P(=O)(O)(O)CCCCCCCCCCCC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C19H24F17O3P
